US08497281B2
Step 3: cis-2,2,2-trifluoro-1-[8-(4-methoxy-phenoxy)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-ethanone
A mixture of cis-2,2,2-trifluoro-1-(8-hydroxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-ethanone (0.98 g), 4-methoxyphenylboronic acid (1.00 g), pyridine (1.30 mL), copper(II) acetate (0.60 g), molecular sieves 3 Å (3.60 g), and dichloromethane (15 mL) is stirred in air at room temperature overnight. The mixture is diluted with dichloromethane and filtered over Celite. The filtrate is concentrated and the residue is chromatographed on silica gel (dichloromethane/methanol containing 1% NH3 99:1-95:5) to give the title compound as a colorless resin-like solid. Yield: 1.05 g (79% of theory); LC (method 1): tR=5.00 min; Mass spectrum (ESI+): m/z=406 [M+H]+.

reactant | cis-2,2,2-trifluoro-1-(8-hydroxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-ethanone | 0.98 g | FC(C(=O)N1CCC[C@@H]2C3=C(CC[C@H]12)C=C(C=C3)O)(F)F | C15H16F3NO2
reactant | 4-methoxyphenylboronic acid | 1.00 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | pyridine | 1.30 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 0.60 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | cis-2,2,2-trifluoro-1-[8-(4-methoxy-phenoxy)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-ethanone | FC(C(=O)N1CCC[C@@H]2C3=C(CC[C@H]12)C=C(C=C3)OC3=CC=C(C=C3)OC)(F)F | C22H22F3NO3
